US04832879
72.3 parts by weight of bromotrifluoroethene are passed, over 10 hours, into a mixture of 45.6 parts by weight of methyl 3-hydroxybenzoate and 9.5 parts by weight of potassium hydroxide powder in 50 parts by weight of acetone under reflux at 45°-52° C. After having been concentrated on a rotary evaporator under reduced pressure, the reaction mixture is taken up in methylene chloride and this solution is extracted with sodium bicarbonate solution, dried and concentrated. Methyl 3-(2'-bromo-1',1',2'-trifluoroethoxy)-benzoate of nD 25 =1.4850 is obtained in a yield of 68% of theory, and can be hydrolyzed, in a yield of 98% of theory, to 3-(2'-bromo-1',1',2'-trifluoroethoxy)-benzoic acid, of melting point 88°-90° C..

reactant | bromotrifluoroethene | BrC(=C(F)F)F | C2BrF3
reactant | methyl 3-hydroxybenzoate | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | Methyl 3-(2'-bromo-1',1',2'-trifluoroethoxy)-benzoate | yield of 68% | BrC(C(OC=1C=C(C(=O)OC)C=CC1)(F)F)F | C10H8BrF3O3
